US04692465
N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(3-chlorophenyl)ethanamine hydrochloride
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(3-chlorophenyl)ethanamine (3.0 g) in dry tetrahydrofuran (30 ml) was added dropwise, with stirring, to a suspension of lithium aluminium hydride (1.0 g) in dry tetrahydrofuran (30 ml) and the resultant mixture heated under reflux for 3 hours. After cooling, water (1 ml), 10% aqueous sodium hydroxide (1 ml) and water (2 ml) were added carefully. Filtration and evaporation of the filtrate to dryness gave an oil which was converted to its hydrochloride salt by treatment with ethereal hydrogen chloride. Recrystallisation from ethyl acetate-methanoldiethyl ether gave the title compound, mp 86°-90° C. as a 49:51 mixture of diastereoisomers.

reactant | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(3-chlorophenyl)ethanamine | 3.0 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OCCO | C22H28ClNO5
reactant | lithium aluminium hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(3-chlorophenyl)ethanamine hydrochloride | Cl.OCCOC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OCCO | InChI=1S/C21H28ClNO4.ClH/c1-16(13-17-5-7-20(8-6-17)26-11-9-24)23-15-21(27-12-10-25)18-3-2-4-19(22)14-18;/h2-8,14,16,21,23-25H,9-13,15H2,1H3;1H
